Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Enalapril / lobster/crab / Viagra / ginseng tea / shellfish 
derived
 
Attending: ___
 
Chief Complaint:
Seizures and AMS
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ gentleman with history of multiple 
myeloma complicated by renal failure status post transplant, 
history of prostate cancer currently on radiation, hypertension 
and diabetes who presents as an outside hospital transfer for 
further management of seizures.  

Briefly, patient was recently admitted to ___ 
___ for altered mental status which was thought to be 
due to stroke he was given TPA, 30 minutes into the infusion 
patient developed a generalized tonic-clonic seizure.  This was 
reportedly his first time
lifetime seizure. He was started on keppra 750mg BID (renally 
dosed). Seizures were thought to be possibly due to known left 
temporal calcification vs infectious given he is immune 
suppressed. However, no reported fevers or leukocytosis. The 
rest of his hospital course was complicated by GI bleed and 
pneumonia.

He was discharged to rehab facility on ___.  Per family
he was doing quite well.  On ___, the patient had dinner with 
his wife at the rehab and was neurologically intact. He was 
conversant, lucid and able to ambulate with his walker.  On 
___, the patient went to the chapel to pray, shortly after 
returning around 6pm, he became tearful and increasingly 
agitated. He was brought back to ___ for agitation and inability 
to follow commands. Urine sample in the ED was positive for UTI 
and the patient was started on ceftriaxone.   

On ___, patient was noted to frequently yell out and groan. He 
also was incontinent of urine. EEG was ordered and was concerned 
for left sided discharges. 2mg of IV Ativan was given and the 
patient became more alert and was opening eyes to verbal 
command. IV Depakote was then loaded at 12:22pm. His heart rate 
was persistently elevated to the 130's and patient desaturated 
down to 89% on 2L. A rapid response was called and patient was 
transferred to the MICU at ___. After this time, it was decided 
to transfer the patient to ___ for further monitoring and 
care.  

 
Past Medical History:
CKD stage V, not on renal replacement therapy, type 2 diabetes,
hypertension, glomerulosclerosis, monoclonal gammopathy of
unknown significance, BPH, gout, obesity, erectile dysfunction,
CVA, apnea, hypercholesterolemia, asthma, asbestosis s/p pleural
biopsy approximately ___ years ago  

 
Social History:
___
Family History:
His mother died at age ___ due to asthma.  His father died at age
___ without a clear cause of death.  He denies any family history
of kidney disease. 
 
Physical Exam:
Admission Exam:
General:  lying in bed, adentulous, pleasant in NAD
HEENT:  mucous membranes moist
Neck:  supple
CV:  irregularly irregular, tachycardic
Lungs:  CTAB
Abdomen:  soft, non distended,  
Ext: No edema 
Skin:  no rashes

Neuro:  
MS- Patient is alert, unable to answer orientation questions. He
is speaking in unintelligible words. Regards and tracks examiner
but is unable to follow any commands. Speech is dysarthric. 

CN- PERRLA, appears to have left facial droop however patient 
has
no teeth therefore difficult to assess facial symmetry. 

Sensory/Motor- Briskly withdraws lue, lle, rle, right upper
extremity localizes. 
Coordination-deferred

*******************
Discharge Exam:
Vitals: Tmax 98.0 BP 101-125/70-84, HR ___ RR ___ 0 O2 Sat 
>93%
Gen: Lying comfortably in bed. 
MS: Alert, oriented to self , states he is at "___. 
Said the year was "___", then stated ___. correctly identifies 
the month as ___ then quickly states it is ___. Follows 
simple commands to stick out tongue, close/open eyes and move 
all extremities.  
CN: PERRL 3-->2,face symmetric, EOM grossly full, tongue midline
Motor: Normal tone/bulk. Moving all extremities spontaneously 
and
anti-gravity.
Reflexes: deferred
Sensory: Intact to Light touch throughout. 
Coord: deferred
Gait: Deferred
 
Pertinent Results:
___ 11:36PM   GLUCOSE-122* UREA N-24* CREAT-1.8* SODIUM-142 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-25 ANION GAP-16
___ 11:36PM   estGFR-Using this
___ 11:36PM   ALT(SGPT)-12 AST(SGOT)-14 CK(CPK)-71 ALK 
PHOS-67 TOT BILI-0.3
___ 11:36PM   CK-MB-2 cTropnT-0.03*
___ 11:36PM   CALCIUM-8.4 PHOSPHATE-3.4 MAGNESIUM-1.6 
CHOLEST-93
___ 11:36PM   %HbA1c-6.8* eAG-148*
___ 11:36PM   TRIGLYCER-128 HDL CHOL-25 CHOL/HDL-3.7 
LDL(CALC)-42
___ 11:36PM   TSH-0.85
___ 11:36PM   VALPROATE-29*
___ 11:36PM   WBC-8.8# RBC-3.84* HGB-10.3* HCT-35.4* MCV-92 
MCH-26.8 MCHC-29.1* RDW-13.4 RDWSD-44.5
___ 11:36PM   PLT COUNT-211
___ 11:36PM   ___ PTT-28.3 ___

CT head ___
IMPRESSION: 
  
  
1. No evidence of hemorrhage, infarction, or mass. 
2. Unchanged 10 x 8 mm calcification in the left temporal lobe 
since ___. The differential diagnosis includes a calcified cavernous 
malformation 
or prior calcification from old injury or infection. 
  

 
Brief Hospital Course:
___ gentleman with history of multiple myeloma 
complicated by renal failure status post transplant, history of 
prostate cancer recently completed radiation, hypertension and 
diabetes who presented as an outside hospital transfer for 
further management of AMS and seizures in setting of UTI.

On admission to ___ he was started on cvEEG which showed left 
sided PLEDS. He received a repeat 500IV Depakote load - received 
load at OSH- and his scheduled Depakote was increased from 500mg 
BID to ___ TID. Level noted to be therapeutic. He was 
maintained on his home keppra 750mg BID (renally dosed). cvEEG 
improved and came of on ___. He underwent a CT head which showed 
a calcification in the left basal ganglia, which has been seen 
on prior CT head several years ago. This was thought to be the 
seizure trigger. Unfortunately, patient was unable to undergo 
MRI brain to further assess the calcification as he does have a 
piece of metal in his eye since ___.

Urine cx at the OSH grew Klebsiella for which he was started on 
Ceftriaxone on ___. His mental status improved and etiology 
of his altered mental status was thought be secondary to UTI. He 
was transferred to the ___ on ___. 

For his afib he was maintained on his home ASA325mg (not on AC 
___ recent GI bleed) and rate was controlled with Lopressor.

Renal transplant service was notified on admission and followed 
throughout his hospital stay.  

Neurology Floor ___- ++++)
He was transferred from the ICU to the ___ on ___.  He 
remained hypernatremic which was corrected with IVF and free 
water boluses via NGTube as per Transplant Nephrology's 
recommendations. 

As per Transplant Nephrology's recommendations, his SBP goal is 
less than 160. During his hospitalization, we discontinued his 
Losartan and Chlorothiadone.  His home Metoprolol dose was 
increased and he was started on Amlodipine.  During this 
hospitalization, he was noted to have Atrial Fibrillation and 
Demand NSTEMI.  He completed a 14d course of Ceftriaxone for the 
Klebsiella UTI (___).

He had no further seizures since being transferred from the ICU. 
 He is currently on Levetiracetam 750mg BID and Valproic Acid 
___ TID for seizure control.

He subsequently passed his swallow study.  He was monitored 
several days with improvement in his clinical status. 

On the day of discharge, his transplant team also reviewed his 
medications and agreed with the plan to go to rehab. 

______________________
Transitional Issues:
1.Holding losartan and HCTZ, maintaining good bP on amlodipine 
alone
2.Patient finished his full course of antibiotics for his UTI on 
day of discharge and does not require further treatment
3. Renal tx to touch base with patient's outpatient nephrologist 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze 
2. Allopurinol ___ mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Finasteride 5 mg PO DAILY 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. leflunomide 30 mg oral DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Chlorthalidone 25 mg PO DAILY 
9. omeprazole 20 mg oral DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Tacrolimus 4.5 mg PO Q12H 
12. Tamsulosin 0.4 mg PO QHS 
13. Aspirin 325 mg PO DAILY 
14. Multivitamins 1 TAB PO DAILY 
15. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
16. Vitamin D 1000 UNIT PO BID 
17. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 750 mg PO Q12H  
4.  Metoprolol Tartrate 75 mg PO Q6H  
5.  ___ ___ UNIT PO Q8H  
6.  QUEtiapine Fumarate 25 mg PO DAILY:PRN agitation  
7.  Valproic Acid ___ mg PO TID  
8.  Tacrolimus 3.5 mg PO Q12H  
9.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze  
10.  Allopurinol ___ mg PO DAILY  
11.  Aspirin 325 mg PO DAILY  
12.  Atorvastatin 80 mg PO QPM  
13.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
14.  Ferrous Sulfate 325 mg PO DAILY  
15.  Finasteride 5 mg PO DAILY  
16.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
17.  leflunomide 30 mg oral DAILY  
18.  Multivitamins 1 TAB PO DAILY  
19.  omeprazole 20 mg oral DAILY  
20.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
21.  Tamsulosin 0.4 mg PO QHS  
22.  Vitamin D 1000 UNIT PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure
Hypernatremia
Klebsiella Urinary Tract Infection
Delirium
New onset Afib
Demand NSTEMI

 
Discharge Condition:
Mental Status: Confused - sometimes.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Neurology Service after you had 
increased seizure activity in the setting of a urinary tract 
infection.  Given your history of a kidney transplant, you 
required 14 days of antibiotics for your Urinary tract 
infection.  During your hospital stay, you also had electrolyte 
abnormalities that were corrected with IV fluids and free water 
boluses via your NG tube.  You required an NG tube until ___ 
because you were unable to tolerate taking food or drink by 
mouth due to increased risk of aspiration.  You had a video 
swallow study on ___ that cleared you to take food by mouth.  
You were maintained on Keppra and Depakote for seizure control 
with good effect.

Thank you for allowing us to participate in your care,
___ Neurology
 
Followup Instructions:
___